US07569579B2
N-{[(1S,2R)-2-{[4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl]methyl}-1-(3-chlorophenyl)cyclopropyl]methyl}-N-methylbenzenesulfonamide
N-{[(1S,2R)-1-(3-chlorophenyl)-2-formylcyclopropyl]methyl}-N-methylbenzenesulfonamide [made from (3-chlorophenyl)acetonitrile via the sequential methods of Preparations 1, 2, 3A, 4A, 5A, 6A, 7A, 8A] and 4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidine (incorporating by reference as needed WO 00/39125) were reacted as per Preparation 10 to give the title compound. 1H NMR (300 MHz, CD3OD) δ 7.70-7.53 (m, 5H), 7.36-7.23 (m, 9H), 4.07 (s, 2H), 3.83 (d, J=14.0 Hz, 1H), 3.39-3.16 (m, 4H), 3.09 (d, J=14.0 Hz, 1H), 2.78-2.61 (m, 3H), 2.57 (s, 3H), 2.28-2.21 (m, 2H), 2.07-1.94 (m, 2H), 1.53-1.48 (m, 1H), 1.33-1.29 (m, 1H), 1.00-0.96 (m, 1H). ES-LCMS m/z 591.5 (M+H).

reactant | N-{[(1S,2R)-1-(3-chlorophenyl)-2-formylcyclopropyl]methyl}-N-methylbenzenesulfonamide | ClC=1C=C(C=CC1)[C@]1([C@@H](C1)C=O)CN(S(=O)(=O)C1=CC=CC=C1)C | C18H18ClNO3S
reactant | (3-chlorophenyl)acetonitrile | ClC=1C=C(C=CC1)CC#N | C8H6ClN
reactant | 4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidine | C(C1=CC=CC=C1)C1=NOC(=N1)C1CCNCC1 | C14H17N3O
product | N-{[(1S,2R)-2-{[4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl]methyl}-1-(3-chlorophenyl)cyclopropyl]methyl}-N-methylbenzenesulfonamide | C(C1=CC=CC=C1)C1=NOC(=N1)C1CCN(CC1)C[C@H]1[C@@](C1)(C1=CC(=CC=C1)Cl)CN(S(=O)(=O)C1=CC=CC=C1)C | C32H35ClN4O3S
